US05113007
Preparation of 2-bromo-5-ethoxy-7-phenylhept-2,6-dienal
One starts with 2.21 g of 2-bromo-1-trimethylsiloxybut-1,3-diene and 2.06 g of 3,3-diethoxyl-1-phenylprop-1-ene and proceeds in the same manner as in Example 3, except that the reaction is carried out for two hours.

reactant | 2-bromo-1-trimethylsiloxybut-1,3-diene | 2.21 g | BrC(=CO[Si](C)(C)C)C=C | C7H13BrOSi
reactant | 3,3-diethoxyl-1-phenylprop-1-ene | 2.06 g | O(CC)C(C=CC1=CC=CC=C1)OCC | C13H18O2
product | 2-bromo-5-ethoxy-7-phenylhept-2,6-dienal | BrC(C=O)=CCC(C=CC1=CC=CC=C1)OCC | C15H17BrO2
